US20010016269A1
1,2,3,4-tetraphenyl-benzo [4,5] imidazo [2,1-a] isoindol-11-one (A3).
A 500 ml round-bottom flask equipped with a stirrer and reflux condenser is charged with 8.34 g (73.3 mmol) of o-phenylenediamine (95%), 33.0 g (66.3 mmol) of 1,2,3,4-tetraphenylphthalic anhydride, and 200 ml of glacial acetic acid. Under nitrogen atmosphere, the mixture is stirred and heated at reflux for 11 hours. The slurry is cooled and the yellow solid is isolated by filtration. The solid is washed with water and then with methanol. 35.1 g of an yellow solid is obtained (92%).

reactant | o-phenylenediamine | 73.3 mmol, 8.34 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 1,2,3,4-tetraphenylphthalic anhydride | 66.3 mmol, 33.0 g | C1(=CC=CC=C1)C12C(=O)OC(C1(C(=C(C=C2)C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)=O | C32H22O3
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,4-tetraphenyl-benzo [4,5] imidazo [2,1-a] isoindol-11-one | 35.1 g | C1(=CC=CC=C1)C1=C2C(N3C(C2=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=NC1=C3C=CC=C1)=O | C38H24N2O
